US08222219B2
A solution of thianaphthene (543 mg) in diethyl ether (20 ml) was cooled to 0° C. under argon atmosphere, and thereto was added dropwise n-butyl lithium (2.44 M hexane solution, 1.74 ml). The reaction mixture was stirred at the same temperature for 3 hours. The reaction mixture was added dropwise to a solution of N-methoxy-N-methyl-5-bromo-2-methylbenzamide (1.15 g) obtained in Reference Example 4-(2) in diethyl ether (10 ml) cooled to −78° C. The mixture was warmed to room temperature and stirred for one hour. Added thereto was a saturated aqueous ammonium chloride solution. The mixture was extracted with ethyl acetate, washed with brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=100:0-95:5) to give 5-bromo2-methylphenyl benzo[b]thiophen-2-yl ketone (995 mg) as a pale yellow syrup. APCI-Mass m/Z 331/333 (M+H). (2) The above 5-bromo2-methylphenyl benzo[b]thiophen-2-yl ketone was treated in a manner similar to Reference Example 5-(2) to give 1-(benzo[b]thiophen-2-ylmethyl)-5-bromo-2-methylbenezene as colorless oil.

reactant | thianaphthene | 543 mg | C=1C=CC2=C(C1)C=CS2 | C8H6S
reactant | n-butyl lithium | 2.44 M, 1.74 ml | C(CCC)[Li]
reactant | N-methoxy-N-methyl-5-bromo-2-methylbenzamide | 1.15 g | CON(C(C1=C(C=CC(=C1)Br)C)=O)C | C10H12BrNO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 5-bromo2-methylphenyl benzo[b]thiophen-2-yl ketone | 995 mg | S1C2=C(C=C1C(=O)C1=C(C=CC(=C1)Br)C)C=CC=C2 | C16H11BrOS
